US08461134B2
4-Amino-N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)-2-((5-methyl-1,2,4-oxadiazol-3-yl)methyl)benzenesulfonamide
To a stirred solution of 2-((5-methyl-1,2,4-oxadiazol-3-yl)methyl)-4-(2,2,2-trifluoroacetamido)benzene-1-sulfonyl chloride (490 mg, 1.3 mmol) and 6-aminobenzo[c][1,2]oxaborol-1(3H)-ol (627 mg, 4.21 mmol) in 10 mL of ACN was added pyridine (680 uL, 8.4 mmol) dropwise. The reaction mixture was stirred at room temperature for 3 hours. After the mixture was concentrated, the residue was extracted with ethyl acetate and washed with water, 1N HCl and brine. The organic layer was dried over Na2SO4 and concentrated to give the desired compound as a yellow residue (555 mg, yield 88%). A small portion of the crude mixture was purified by prep HPLC (SunFire Prep C18 OBD 5 uM 30×50 mm column) to give the title compound as a yellow solid.

reactant | 2-((5-methyl-1,2,4-oxadiazol-3-yl)methyl)-4-(2,2,2-trifluoroacetamido)benzene-1-sulfonyl chloride | 1.3 mmol, 490 mg | CC1=NC(=NO1)CC1=C(C=CC(=C1)NC(C(F)(F)F)=O)S(=O)(=O)Cl | C12H9ClF3N3O4S
reactant | 6-aminobenzo[c][1,2]oxaborol-1(3H)-ol | 4.21 mmol, 627 mg | NC=1C=CC2=C(B(OC2)O)C1 | C7H8BNO2
reactant | pyridine | 8.4 mmol, 680 uL | N1=CC=CC=C1 | C5H5N
solvent | ACN | 10 mL | C(C)#N | C2H3N
product | 4-Amino-N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)-2-((5-methyl-1,2,4-oxadiazol-3-yl)methyl)benzenesulfonamide | NC1=CC(=C(C=C1)S(=O)(=O)NC=1C=CC2=C(B(OC2)O)C1)CC1=NOC(=N1)C | C17H17BN4O5S
